* source RFMC_FRONTEND_V1_00
R_R1         N00387 N00220  106.07 TC=0,0 
R_R2         N00354 N00172  106.07 TC=0,0 
R_R3         N00172 N00220  157.68 TC=0,0 
R_R4         N00354 N00387  157.68 TC=0,0 
